US08278318B2
Step 5a: Benzyl 2-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate
To a stirred solution of benzyl 2-(cis-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate (60.00 g, 155.2 mmol) in anhydrous N,N-dimethylformamide (160 mL) at r.t. was added 1H-imidazole (32.0 g, 466 mmol) and tert-butyldimethylsilyl chloride (36.2 g, 233 mmol). The reaction mixture was stirred at r.t. for 4 h, quenched with water (150 mL), and extracted with EtOAc (3×150 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to afford the crude product (84 g). The pure product (55.4 g) was obtained by re-crystallization of the crude product from heptane. The mother liquor was concentrated and subjected to purification by flash chromatography on a silical gel column eluting with AcOEt/Haxane to give additional 14.4 g of the product with a total 89.7% yield.

reactant | benzyl 2-(cis-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate | 155.2 mmol, 60.00 g | O[C@H]1CC[C@H](CC1)N1C(C2(CC1)CN(CCC2)C(=O)OCC2=CC=CC=C2)=O | C22H30N2O4
reactant | 1H-imidazole | 466 mmol, 32.0 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 233 mmol, 36.2 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | heptane | CCCCCCC | C7H16
solvent | N,N-dimethylformamide | 160 mL | CN(C=O)C | C3H7NO
product | Benzyl 2-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate | 55.4 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CC[C@H](CC1)N1C(C2(CC1)CN(CCC2)C(=O)OCC2=CC=CC=C2)=O | C28H44N2O4Si
